US05057522
2-Amino-4,6-dimethylpyridine (10.0 g, 81.8 mmol) was added portion-wise to 65 mL of H2SO4 (conc. d=1.84) which was stirred (mechanical) at 0° C. After complete addition, the mixture was warmed to room temperature until the mixture become homogeneous. The solution was then cooled to -10° C. and a pre-cooled (0° C.) mixture of concentrated HNO3 (11.5 mL, d=1.40) and H2SO4 (8.2 mL, d=1.84) was added at such a rate as not to raise the internal reaction temperature above -9° C. Ten minutes after the addition was complete this cooled (-10° C.) mixture was poured onto 400 g of crushed ice. The resulting slurry was neutralized by the addition of conc NH4OH (to pH 5.5) while cooling (ice bath). The solid was isolated by filtration, and dried at room temperature to give 13.3 g of 2-nitramino-4,6-dimethylpyridine as a white solid.

reactant | 2-Amino-4,6-dimethylpyridine | 81.8 mmol, 10.0 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | H2SO4 | 65 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 11.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 8.2 mL | OS(=O)(=O)O | H2O4S
reactant | NH4OH | pH 5.5 | [NH4+].[OH-]
product | 2-nitramino-4,6-dimethylpyridine | 13.3 g | N([N+](=O)[O-])C1=NC(=CC(=C1)C)C | C7H9N3O2
